US07943609B2
(2S)-1-(Benzyloxy)-3-{[tert-butyl(dimethyl)silyl]oxy}-N-tritylpropan-2-amine (3.02 g, 5.62 mmol) was dissolved in 60 mL of anhydrous CH2Cl2 and 9.1 mL of glacial acetic acid. The reaction mixture was cooled to 0° C. under an atmosphere of N2 and boron trifluoride diethyl etherate (0.75 mL, 5.92 mmol) was added dropwise over several minutes. After stirring for 5 hours, the reaction mixture was treated with 85 mL of cold, aqueous 10% NaOH solution. The layers were separated and the aqueous portion was extracted with CH2Cl2 (2×20 mL). The organic layers were combined and dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 0-5% methanol/CHCl3) gave 1.57 g of (2S)-1-(benzyloxy)-3-{[tert-butyl(dimethyl)silyl]oxy}propan-2-amine as a white solid.

reactant | (2S)-1-(Benzyloxy)-3-{[tert-butyl(dimethyl)silyl]oxy}-N-tritylpropan-2-amine | 5.62 mmol, 3.02 g | C(C1=CC=CC=C1)OC[C@@H](CO[Si](C)(C)C(C)(C)C)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H43NO2Si
reactant | boron trifluoride diethyl etherate | 5.92 mmol, 0.75 mL | B(F)(F)F.CCOCC
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 9.1 mL | C(C)(=O)O | C2H4O2
product | (2S)-1-(benzyloxy)-3-{[tert-butyl(dimethyl)silyl]oxy}propan-2-amine | 1.57 g | C(C1=CC=CC=C1)OC[C@@H](CO[Si](C)(C)C(C)(C)C)N | C16H29NO2Si
